US05652258
Boc-Cyclohexylalanine Dicyclohexylamine salt (0.497g, 1.1 mM) was added to a mixture of ethyl acetate (25 ml) and 0.5N HCl (25ml) for 30 minutes. The ethyl acetate layer was separated, washed with water (3×100 ml), dried over MgSO4, and evaporated to give the Boc-Cyclohexylalanine free acid (1.1 mM). The acid was dissolved in 25 ml of THF and cooled to 5° C. under N2. The acid was converted into a mixed anhydride by treatment with N-methyl morpholine (110 ul, 1 mM) and Isobutylchloroformate (130 ul, 1 mM). After stirring for 20 minutes, a solution of a racemic mixture of 3(S)-(1H-imidazol-4-yl)-2-(R)-cyclopropylamine and 3(R)-(1H-imidazol-4-yl)-2-(S)-cyclopropylamine (200 mgs, 1 mM) and triethylamine (284 ul, 2 mM) in 2 ml of water was added. After 2 hours, the reaction mixture was partioned between ethyl acetate (50 ml) and water (50 ml), the ethyl acetate layer was washed with saturated sodium bicarbonate solution, water, then dried over sodium sulfate, filtered, and evaporated in vacuo to give the BOC protected amine of L-Cyclohexylalanine amide of 3(S)-(1H-imidazol-4-yl)-2(R)-cyclopropylamine and its diastereoisomer the L-Cyclohexylalanine amide of 3(R)-(1-H-imidazol-4-yl)-2(S)-cyclopropylamine. The BOC group was deprotected by treating the crude amides directly with Trifluoroacetic add (5 ml) for 30 minutes at r.t. The TFA was evaporated, and the residue triturated with ether to provide the di-trifluoroacetic acid salt of the diastereoisomeric mixture of L-Cyclohexylalanine amide of 3(S)-(1-H-imidazol-4-yl)-2(R)-cyclopropylamine and the L-Cyclohexylalanine amide of 3(R)-(1H-imidazol-4-yl)-2(S)-cyclopropylamine (300 mgs).

reactant | Boc-Cyclohexylalanine Dicyclohexylamine salt | 1.1 mM, 0.497g | C1(CCCCC1)NC1CCCCC1.C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C1CCCCC1
reactant | HCl | 0.5N, 25ml | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | Boc-Cyclohexylalanine | 1.1 mM | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C1CCCCC1 | C14H25NO4
